US08471005B2
Into a Round bottom flask, 7-(4-Methanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine (0.630 g, 0.00197 mol) and Methylene chloride (50 mL, 0.8 mol) were added. m-Chloroperbenzoic acid (0.464 g, 0.00207 mol) was added portion wise. The reaction was stirred at room temperature for 30 minutes. Saturated NaHCO3 was added. The organic layer was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The organic was removed under vacuum. to give 2-Methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine a yellow solid (0.63 g, 93%). NMR 1H (DSMO-d6)-9.40 (s, 1H), 8.54 (d, 2H, J=8.60 Hz), 8.09 (d, 2H, J=7.56 Hz), 7.85 (d, 1H, J=4.84 Hz), 7.39 (d, 1H, J=4.88 Hz), 3.29 (s, 3H), 3.00 (s, 3H)

reactant | 7-(4-Methanesulfonyl-phenyl)-2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazine | 0.00197 mol, 0.630 g | CS(=O)(=O)C1=CC=C(C=C1)C1=CC=C2C=NC(=NN21)SC | C14H13N3O2S2
reactant | Methylene chloride | 0.8 mol, 50 mL | C(Cl)Cl | CH2Cl2
reactant | m-Chloroperbenzoic acid | 0.00207 mol, 0.464 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 2-Methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | CS(=O)C1=NN2C(C=N1)=CC=C2C2=CC=C(C=C2)S(=O)(=O)C | C14H13N3O3S2
